US06660744B1
Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine was prepared from cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.100 g, 0.246 mmol) and 6-amino-2,4-xylenol (0.034 g, 0.246 mmol) in a manner similar to that used for cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-methyl-1,3-benzoxazol-2-amine. The compound was formed as an off-white solid (0.031 g, 23%): 1H NMR (DMSO-d6, 400 MHz) δ 10.85 (s, 1H), 8.23 (s, 1H), 7.93 (d, 2H), 7.65 (d, 2H), 7.11 (s, 1H), 6.80 (s, 1H), 4.80 (m, 1H), 2.60-2.17 (m, 12H), 2.41 (s, 3H), 2.37 (s, 3H), 2.22 (s, 3H), 1.71-1.59 (m, 5H); RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) tr=8.00 min., 93%; m/z 552 (MH+).

reactant | cis-3-(4-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.246 mmol, 0.100 g | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
reactant | 6-amino-2,4-xylenol | 0.246 mmol, 0.034 g | NC=1C=C(C=C(C1O)C)C | C8H11NO
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-methyl-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C(=CC=C1)C)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C30H35N9O
product | Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C31H37N9O
